US05675033
Ethyl 2-[5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl]benzoate (Compound H)
To magnesium (180 mgs, 7.5 mmols) in THF (3 ml) was added a solution of 2 -bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene (200 mgs) in THF (5 ml) followed by 1,2-dibromoethane (94 mgs, 0.5 mmol). The mixture was stirred for 15 mins, then another portion of 2-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene (1.14 g, 5 mmols) in THF (10 ml) was added. The mixture was stirred for 15 mins at room temperature, and refluxed for 1 h. ZnCl2 (680 mgs, 5 mmols) was added, stirred for 40 mins, and to the white precipitate. ethyl-2-bromobenzoate (1.09 g) in THF (5 ml) was added, immediately followed by addition of Ni(PPh2CH2CH2)Cl2 (26 mgs, 0.05 mmols). The mixture was stirred at room temperature for 16h. The reaction mixture was diluted with diethyl ether:ethylacetate (1:1, a total of 180 ml), the organic phase was washed with water (10 ml), brine (10 ml) NaHCO3 (10 ml) and brine (10 ml), dried (MgSO4) and the solvent was removed under reduced pressure. Silicagel chromatography (5% ethyl acetate in hexane) followed by HPLC purification of the crude material gave the title compound as a colorless oil.

reactant | magnesium | 7.5 mmols, 180 mgs | [Mg] | Mg
reactant | 2 -bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 200 mgs | BrC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C14H19Br
reactant | 1,2-dibromoethane | 0.5 mmol, 94 mgs | BrCCBr | C2H4Br2
reactant | 2-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 5 mmols, 1.14 g | BrC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C14H19Br
reactant | ethyl-2-bromobenzoate | 1.09 g | C(C)OC(C1=C(C=CC=C1)Br)=O | C9H9BrO2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | diethyl ether ethylacetate | C(C)OCC.C(C)OC(C)=O
catalyst | ZnCl2 | 5 mmols, 680 mgs | [Cl-].[Cl-].[Zn+2]
product | Ethyl 2-[5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl]benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=C(C(=O)OCC)C=CC=C1)C | C23H28O2
